US08283102B2
Under an ice bath, about 200 g of phenol and about 256 g of chloromethyl methyl ether were mixed and stirred in about 2 L of methylene chloride (MC), and about 740 ml of diisopropylethylamine (DIPEA) was gradually dropped. Next, the ice bath was removed and a temperature was increased, and then a synthesis reaction (see Equation 1 below) was performed while stirring for about 12 hours at room temperature. Next, distilled water was added in a reaction mixed liquid to complete the synthesis reaction and to extract an organic phase. Next, the organic phase was washed using about 0.5 N of HCl aqueous solution, distilled water, about 1 N of NaOH aqueous solution, and distilled water in the stated order, and then dried using magnesium sulphate. Next, the organic phase was filtered and concentrated to obtain about 240 g (a yield: about 81.7%) of methoxymethoxybenzene, and a structure of the methoxymethoxybenzene was observed by 1H-NMR (see FIG. 1):

reactant | phenol | about 200 g | C1(=CC=CC=C1)O | C6H6O
reactant | chloromethyl methyl ether | about 256 g | COCCl | C2H5ClO
reactant | diisopropylethylamine | about 740 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | about 2 L | C(Cl)Cl | CH2Cl2
product | methoxymethoxybenzene | yield: about 81.7% | COCOC1=CC=CC=C1 | C8H10O2
